US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 1-benzylindole-3-carbonyl chloride were combined to provide N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-1-benzyl-1H-3-indolecarboxamide as a white powder, m.p. 139.0° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ8.24 (s, 1H), 8.14 (t, J=7.8 Hz, 1H), 8.04 (m, 2H), 7.93 (m, 1H), 7.62 (d, J=8.4 Hz, 1H), 7.51 (d, J=7.8 Hz, 1H), 7.44-7.09 (m, 9H), 6.63 (s, 2H), 5.44 (s, 2H), 4.66 (t, J=6.6 Hz, 2H), 1.97-1.92 (m, 2H), 1.62-1.57 (m, 2H); MS (EI) m/e 488.2326 (488.2325 calcd for C30H28N6O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 1-benzylindole-3-carbonyl chloride | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)Cl | C16H12ClNO
product | N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-1-benzyl-1H-3-indolecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(=O)C2=CN(C1=CC=CC=C21)CC2=CC=CC=C2 | C30H28N6O
